US07479488B2
69f (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Under a nitrogen atmosphere 1.93 g (9.58 mmol) 4-nitrophenyl chloroformate was added to a solution of 1.17 g (9.58 mmol) 4-dimethylaminopyridine in 50 mL pyridine, stirred for 1.5 h at RT, combined with 3.0 g (9.58 mmol) methyl (R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-hydroxy-propionate and stirred for 20 min at RT. Then 2.35 g (9.58 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one were added and the mixture was stirred for 20 h at RT. The reaction mixture was evaporated down i. vac., the residue was taken up in EtOAc, the organic phase was washed with 10% KHSO4 and saturated NaHCO3 solution and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, gradient cyc/EtOAc 1:1 to 1:2).

reactant | 4-nitrophenyl chloroformate | 9.58 mmol, 1.93 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methyl (R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-hydroxy-propionate | 9.58 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C[C@H](C(=O)OC)O)C | C19H22O4
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 9.58 mmol, 2.35 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
catalyst | 4-dimethylaminopyridine | 9.58 mmol, 1.17 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C(=O)OC)C=CC=C2 | C34H39N3O6
